US07064123B1
3-Benzylsulfanyl-2-(tetrahydro-pyran-4-yloxymethyl)-propionic acid (3a)
A solution of 3-benzylsulfanyl-2-(tetrahydro-pyran-4-yloxymethyl)-propionic acid ethyl ester (1.27 g) in ethanol (30 ml) was treated with 2N NaOH (9.4 ml) overnight. Usual water work up gave the title compound as white solid; MS: 333 (M+Na), 311 (M+1); LCMS retention time 3.7 minutes.

reactant | 3-benzylsulfanyl-2-(tetrahydro-pyran-4-yloxymethyl)-propionic acid ethyl ester | 1.27 g | C(C)OC(C(CSCC1=CC=CC=C1)COC1CCOCC1)=O | C18H26O4S
reactant | NaOH | 2N, 9.4 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-Benzylsulfanyl-2-(tetrahydro-pyran-4-yloxymethyl)-propionic acid | C(C1=CC=CC=C1)SCC(C(=O)O)COC1CCOCC1 | C16H22O4S
